US07390818B2
Ethyl 2-(4-methoxyphenyl)-3-hydroxy-2-propenoate (III)
8.9 ml of ethyl p-methoxyphenylacetate are dissolved in 80 ml of ethyl formate. 4.6 g of 50% NaH are added portionwise and then the mixture is stirred at ambient temperature for 12 hours. It is poured onto a 1N HCl solution and then extraction is carried out with AcOEt. Purification is carried out by chromatography on a silica column eluted with an AcOEt/heptane (05/95; v/v) mixture to produce 4.0 g of the expected compound in the liquid form.

reactant | ethyl p-methoxyphenylacetate | 8.9 ml | COC1=CC=C(C=C1)CC(=O)OCC | C11H14O3
reactant | NaH | 4.6 g | [H-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | ethyl formate | 80 ml | C(=O)OCC | C3H6O2
product | Ethyl 2-(4-methoxyphenyl)-3-hydroxy-2-propenoate | 4.0 g | COC1=CC=C(C=C1)C(C(=O)OCC)=CO | C12H14O4
